US06020357
To a solution of 2-fluoro-5-nitrobenzonitrile (2.0 g, 12 mmol) in ethyl acetate(50 mL) was added stannous chloride (27.0 g, 120 mmol). The reaction mixture was stirred at reflux 1.5 h, then cooled to room temperature. Partitioned between ethyl acetate (150 mL) and saturated sodium bicarbonate(150 mL). Organic phase was separated and washed with water (5×75 mL), brine (75 mL); dried over sodium sulfate (anhy.); filtered and concentrated to give 2-fluoro-5-aminobenzonitrile (1.4 g) as pure compound.

reactant | 2-fluoro-5-nitrobenzonitrile | 12 mmol, 2.0 g | FC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3FN2O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-fluoro-5-aminobenzonitrile | 1.4 g | FC1=C(C#N)C=C(C=C1)N | C7H5FN2
